US07160888B2
Synthesis of 2-{4-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-butoxy}-8H-pyrido[2,3-d]pyrimidin-7-one
To a suspension of 4-(7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-yloxy)-butyraldehyde (235 mg, 1.01 mmol) in dichloroethane (5 mL) was added 1-(2,3-dichloro-phenyl)-piperazine hydrochloride (270 mg, 1.01 mmol) followed by Et3N (0.28 mL, 2.0 mmol, 2 equiv). After 10 min at RT, NaBH(OAc)3 (297 mg, 1.4 mmol) was added as a powder. The reaction was stirred for 2 h at room temperature and quenched with saturated NaHCO3 and H2O. The mixture was extracted with EtOAc (with a little MeOH to help dissolve the solids). The organic layer was washed with brine and concentrated. Purification by liquid chromatography (5% MeOH/CH2Cl2 with 1% NH4OH) gave the title compound as a white solid (375 mg, 0.836 mmol, 83%). MS: APCI: M+1: 448.1 (Exact Mass: 447.12).

reactant | 4-(7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-yloxy)-butyraldehyde | 1.01 mmol, 235 mg | O=C1C=CC2=C(N=C(N=C2)OCCCC=O)N1 | C11H11N3O3
reactant | 1-(2,3-dichloro-phenyl)-piperazine hydrochloride | 1.01 mmol, 270 mg | Cl.ClC1=C(C=CC=C1Cl)N1CCNCC1
reactant | Et3N | 2.0 mmol, 0.28 mL, 2 equiv | CCN(CC)CC | C6H15N
reactant | NaBH(OAc)3 | 1.4 mmol, 297 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
product | 2-{4-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-butoxy}-8H-pyrido[2,3-d]pyrimidin-7-one | 0.836 mmol, 375 mg, 83% | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCCOC=1N=CC2=C(N1)NC(C=C2)=O | C21H23Cl2N5O2
